### PR TITLE
Low projection makes labels themselves partially secret

### PR DESCRIPTION
**Pull request by aferr**
The commit messages are worth reading as a guide for the most significant changes,

particularly the commit message for "[WIP]Working on unobs; need significant def change"

The proof state is roughly where it was before despite the low-level definitional change.

I fixed and then unfixed the spacing in NIUtils to make the PR readable temporarily :) 

# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 1]
```diff
@@ -96,17 +98,25 @@ Theorem state_low_proj_loweq:
 Proof.
 Admitted.
 
-Theorem low_projection_preserves_lbl {A: Type}: forall ell (x: @labeled A),
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:99]: Worth noting that this theorem that used to show up everywhere is no longer true, and it is instead replaced by low_proj_preserves_obs and proj_labels_increase to get back to a similar proof state.

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 2]
```diff
@@ -152,54 +183,95 @@ Definition conjecture_possibilistic_ni := forall ell t1_init t2_init t1n,
...
+            {| obj := new_chan; lbl := ell'|} s).
+Proof.
+    cbv [state_low_eq state_low_proj fresh_han new_chan]. intros.
+    eapply state_low_eq_parts; [cbv [state_upd_chan_labeled]; reflexivity | ].
+    eapply chan_state_fe.
+    intros. simpl. cbv [low_eq]. destruct s. cbv [RuntimeModel.chans] in *.
+    unfold low_proj.
+    destruct (dec_eq_h h h0). 
+    - rewrite <- e. rewrite H0.
+    replace
```
Comment (aferr) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:215]: How can I get rid of these horrible replaces ?

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 3]
```diff
@@ -152,54 +183,95 @@ Definition conjecture_possibilistic_ni := forall ell t1_init t2_init t1n,
...
+            (state_upd_node id (node_add_rhan h n0)
+            (state_upd_chan_labeled h {| obj := new_chan; lbl := clbl |} s))).
         eapply state_upd_node_unobs; eauto.
-        eapply (state_upd_node_unobs _ _ _ (node_add_rhan h n)); eauto.
-        eapply upd_eq.
+        eapply state_upd_node_unobs; eauto. simpl. 
+        (* wishing for erewrite upd_eq; eauto to work here.*)
+        (* I also tried making upd_eq_rev to try to get rid of the
+        need for symmetry, but that didn't seem to help *)
+        replace
```
Comment (aferr) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:262]: Another place with a horrible replace.

File: experimental/ni_coq/vfiles/LowEquivalences.v [hunk 4]
```diff
@@ -40,7 +40,11 @@ Definition low_proj {A: Type} ell ( labeled_thing: @labeled A) :=
     match labeled_thing with
         | Labeled _ o ell' => if( ell' <<? ell ) 
             then labeled_thing
-            else Labeled A None ell'
+            else Labeled A None top
+                (* Importantly, the label of the secret thing is NOT ell'
+                but instead the top of the information flow lattice 
+                (secret, untrusted) which means the specifc label is 
+                *)
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/LowEquivalences.v:47]: Comment seems unfinished?

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 2 above)
Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:215]: Making a lemma is probably the easiest way. Something like:
```coq
Lemma chans_update chans ch han: (chans .[ han <- ch]).[? han] =  ch.
```
...or, if the parenthesization here is right, you could maybe even make/use a more general lemma about `fnd` and `tg_update`, or whichever definitions are under `<-` and `?` here.

**Review by jadephilipoom — APPROVED** [review]
LGTM!
